US06841562B2
100 cm3 of tert-butanol are added to 5.55 g of (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid in 450 cm3 of dimethyl sulfoxide, and the reaction mixture is then saturated with oxygen for 30 minutes. A solution of 3.36 g of potassium tert-butoxide in 40 cm3 of tert-butanol is then added over 40 minutes. The mixture is allowed to stir for 2 hours while maintaining the oxygen flow rate, and then the medium is cooled to around 0° C. in order to add 1.8 cm3 of acetic acid in 30 cm3 of distilled water. 1000 cm3 of distilled water and 1000 cm3 of methyl acetate are then poured onto the reaction medium. The organic phase is then washed with 8 times 250 cm3 of distilled water then with 2 times 100 cm3 of sodium chloride. The pooled aqueous phases are re-extracted with 500 cm3 of ethyl acetate. The two organic phases are pooled and then dried over magnesium sulfate for 1 hour. Filtration is carried out through a sintered glass funnel, followed by concentration under reduced pressure (2 kPa; 45° C.). The residue is taken up in 250 cm3 of methyl acetate and 100 cm3 of distilled water. The organic phase is washed with 3 times 50 cm3 of distilled water and then with 50 cm3 of a saturated aqueous sodium chloride solution. Drying is carried out over magnesium sulfate for 1 hour, filtration is carried out through a sintered glass funnel, and then evaporation is carried out under reduced pressure (2 kPa; 45° C.). 5.08 g of (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxy-carbonyl)piperidine-3-carboxylic acid are obtained.

reactant | (3RS,4RS)-4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-carboxylic acid | 5.55 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O)OC | C24H31ClN2O5
reactant | oxygen | O=O | O2
reactant | potassium tert-butoxide | 3.36 g | CC(C)([O-])C.[K+]
reactant | methyl acetate | 1000 cm3 | C(C)(=O)OC | C3H6O2
solvent | dimethyl sulfoxide | 450 cm3 | CS(=O)C | C2H6OS
solvent | tert-butanol | 40 cm3 | C(C)(C)(C)O | C4H10O
solvent | water | 30 cm3 | O | H2O
solvent | water | 1000 cm3 | O | H2O
solvent | tert-butanol | 100 cm3 | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 1.8 cm3 | C(C)(=O)O | C2H4O2
product | (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxy-carbonyl)piperidine-3-carboxylic acid | 5.08 g | OC(CCC1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)Cl | C24H31ClN2O6
